** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/switched_cap_cell.sch
.subckt switched_cap_cell ctrl VAPWR VGND r2 r1 clkin selA selB en VPWR clkout
*.PININFO r1:B r2:B VAPWR:B VGND:B ctrl:I clkin:I selA:I selB:I en:I clkout:O VPWR:B
XC1 c_sw VGND cap_cmomi w=30e-6 l=20e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
x2 out1 r1 c_sw nout1 VAPWR VGND transmission_gate
x6 out2 r2 c_sw nout2 VAPWR VGND transmission_gate
x1 VAPWR net2 net8 VGND net13 net14 net15 osc
x4 net4 VAPWR clk VGND net2 net12 ctrl net1 net5 net6 net7 hv_mux4
x5 VAPWR net1 VGND net16 ctrl net17 vco
x3 out1 nout1 VAPWR clk VGND out2 nout2 net3 pulse_shaper_en
x7 net10 net9 net4 net5 VAPWR VGND net6 net7 hv_binary_decoder4
* noconn #net17
* noconn #net13
* noconn #net15
* noconn #net14
* noconn #net16
x8 net11 ctrl net8 net6 VAPWR VGND transmission_gate
x9 VAPWR net6 net11 VGND hv_inverter_40u
XC2 c_sw VGND cap_cmomi w=104e-6 l=20e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
x10 VAPWR clkin net12 VGND lvl_shift_up
x11 VAPWR selA net9 VGND lvl_shift_up
x12 VAPWR selB net10 VGND lvl_shift_up
x13 VAPWR en net3 VGND lvl_shift_up
x14 VPWR clk clkout VGND hv_inverter_40u
.ends

* expanding   symbol:  transmission_gate.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/transmission_gate.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/transmission_gate.sch
.subckt transmission_gate vctrl vin vout nvctrl VDD VSS
*.PININFO vin:B vout:B vctrl:I nvctrl:I VDD:B VSS:B
XM3 vout vctrl vin VSS sg13_hv_nmos w={tg_ngate_w*tg_ng} l={tg_ch_len} ng={tg_ng} m=1 mm_ok=1
XM4 vout nvctrl vin VDD sg13_hv_pmos w={tg_pgate_w*tg_ng} l={tg_ch_len} ng={tg_ng} m=1 mm_ok=1
**** begin user architecture code


.param tg_ch_len=0.45u
.param tg_ngate_w=2u
.param tg_pgate_w=5u
.param tg_ng=20


**** end user architecture code
.ends


* expanding   symbol:  osc.sym # of pins=7
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/osc.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/osc.sch
.subckt osc VDD out1 ictrl VSS c1 out2 c2
*.PININFO VSS:B VDD:B out2:B out1:B c2:B ictrl:B c1:B
XM3 out1 ictrl VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM2 c1 ictrl VDD VDD sg13_hv_pmos w=1u l=2.0u ng=1 m=1 mm_ok=1
XM4 c2 ictrl VDD VDD sg13_hv_pmos w=1.0u l=2.0u ng=1 m=1 mm_ok=1
XM5 out2 ictrl VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM6 ictrl ictrl VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XC1 c1 out1 cap_cmomi w=10e-6 l=10e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XC2 out2 c2 cap_cmomi w=10e-6 l=10e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XM8 out1 c2 VSS VSS sg13_hv_nmos w=3u l=0.45u ng=1 m=1 mm_ok=1
XM1 c2 c2 VSS VSS sg13_hv_nmos w=1u l=2u ng=1 m=1 mm_ok=1
XM12 out2 c1 VSS VSS sg13_hv_nmos w=3u l=0.45u ng=1 m=1 mm_ok=1
XM11 c1 c1 VSS VSS sg13_hv_nmos w=1u l=2u ng=1 m=1 mm_ok=1
**** begin user architecture code


.ic v(out1)=0 v(out2)=3.3


**** end user architecture code
.ends


* expanding   symbol:  hv_mux4.sym # of pins=11
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_mux4.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_mux4.sch
.subckt hv_mux4 nsel1 VDD out VSS in3 in1 in4 in2 nsel2 nsel3 nsel4
*.PININFO in1:I VDD:B VSS:B out:O in2:I in3:I in4:I nsel1:I nsel3:I nsel2:I nsel4:I
x1 VDD net2 out net1 VSS net3 net4 hv_nor4
x2 VDD nsel1 net2 in1 VSS hv_nor
x4 VDD nsel2 net1 in2 VSS hv_nor
x5 VDD nsel3 net3 in3 VSS hv_nor
x6 VDD nsel4 net4 in4 VSS hv_nor
.ends


* expanding   symbol:  vco.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/vco.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/vco.sch
.subckt vco VDD out VSS nout vctrl vc
*.PININFO VSS:B VDD:B nout:B out:B vctrl:B vc:B
**** begin user architecture code


.ic v(vc)=1.65


**** end user architecture code
XC1 vc VSS cap_cmomi w=30e-6 l=30e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XM4 vc out 5uA- VSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
x1 VDD s out nout r VSS hv_rs-ff
**** begin user architecture code


.param cm_n_w = 6u
.param cm_n_l = 5u
.param cm_p_w = 10u
.param cm_p_l = 2u

.param inv_ng = 1
.param inv_n_w = 2u
.param inv_n_l = 0.45u
.param inv_p_w = 6.5u
.param inv_p_l = 0.4u


**** end user architecture code
XM6 vc out 5uA+ VDD sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
x5 net2 vc vthl VDD 40uA- VSS comp_pmos
x7 net1 vthh vc VDD 40uA+ VSS comp_nmos
x2 10uA- vthl VDD vctrl VSS vthh voltage_mirror_pmos
x3 VDD net1 s VSS hv_inverter_6u5
x6 VDD net2 r VSS hv_inverter_6u5
x8 40uA+ 5uA+ VDD VSS 5uA- 10uA- 40uA- bias_current_generator
.ends


* expanding   symbol:  pulse_shaper_en.sym # of pins=8
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/pulse_shaper_en.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/pulse_shaper_en.sch
.subckt pulse_shaper_en out1 nout1 VDD in VSS out2 nout2 en
*.PININFO out1:O nout1:O out2:O nout2:O in:I VSS:B VDD:B en:I
x7 VDD net1 net3 VSS low_th_inverter
x8 VDD net1 net2 VSS high_th_inverter
x10 VDD out1 nout1 VSS hv_inverter_40u
x11 VDD nout2 out2 VSS hv_inverter_40u
**** begin user architecture code


.include ../../../netlist/pex/hv_inverter_0u3_magic_pex_3.spice
.param w   = 0.3u
.param ng  = 1
.param n_ng = ng
.param n_w = {w*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {1*w*p_ng}
.param p_l = 0.4u


**** end user architecture code
x1 VDD in net1 VSS hv_inverter_0u3
x5 VDD net2 out1 net4 VSS hv_nor
x4 VDD net3 nout2 en VSS hv_nand
x3 VDD en net4 VSS hv_inverter_40u
.ends


* expanding   symbol:  hv_binary_decoder4.sym # of pins=8
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_binary_decoder4.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_binary_decoder4.sch
.subckt hv_binary_decoder4 msb lsb nout1 nout2 VDD VSS nout3 nout4
*.PININFO VDD:B VSS:B msb:I lsb:I nout1:O nout2:O nout3:O nout4:O
x3 VDD msb net1 VSS hv_inverter_40u
x7 VDD msb nout4 lsb VSS hv_nand
x9 VDD net1 nout2 lsb VSS hv_nand
x10 VDD lsb net2 VSS hv_inverter_40u
x11 VDD msb nout3 net2 VSS hv_nand
x8 VDD net1 nout1 net2 VSS hv_nand
.ends


* expanding   symbol:  hv_inverter_40u.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_40u.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_40u.sch
.subckt hv_inverter_40u VDD in out VSS
*.PININFO in:I VDD:B VSS:B out:O
XM2 out in VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 out in VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
**** begin user architecture code


.param w   = 10u
.param ng  = 4
.param n_ng = ng
.param n_w = {3u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {10u*p_ng}
.param p_l = 0.4u


**** end user architecture code
.ends


* expanding   symbol:  lvl_shift_up.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/lvl_shift_up.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/lvl_shift_up.sch
.subckt lvl_shift_up VDD in out VSS
*.PININFO in:I VDD:B VSS:B out:O
XM1 net1 in VSS VSS sg13_hv_nmos w={n_ng*n_w} l={n_l} ng={n_ng} m=1 mm_ok=1
XM2 net1 in VDD VDD sg13_hv_pmos w={p_ng*p_w} l={p_l} ng={n_ng} m=1 mm_ok=1
**** begin user architecture code


.param n_ng = 2
.param n_w = 10u
.param n_l = 0.45u
.param p_ng = 2
.param p_w = 1u
.param p_l = 0.45u


**** end user architecture code
x4 VDD net1 out VSS hv_inverter_6u5
.ends


* expanding   symbol:  hv_nor4.sym # of pins=7
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nor4.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nor4.sch
.subckt hv_nor4 VDD in1 out in2 VSS in3 in4
*.PININFO in1:I VDD:B VSS:B out:O in2:I in3:I in4:I
**** begin user architecture code


.param w   = 10u
.param ng  = 4
.param n_ng = ng
.param n_w = {3u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {10u*p_ng}
.param p_l = 0.4u


**** end user architecture code
XM2 out in3 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 net3 in4 VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
XM1 out in4 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM4 out in1 net1 VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
XM5 out in2 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM6 out in1 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM7 net1 in2 net2 VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
XM8 net2 in3 net3 VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
.ends


* expanding   symbol:  hv_nor.sym # of pins=5
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nor.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nor.sch
.subckt hv_nor VDD in1 out in2 VSS
*.PININFO in1:I VDD:B VSS:B out:O in2:I
**** begin user architecture code


.param w   = 10u
.param ng  = 4
.param n_ng = ng
.param n_w = {3u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {10u*p_ng}
.param p_l = 0.4u


**** end user architecture code
XM2 out in1 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 net1 in2 VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
XM1 out in2 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM4 out in1 net1 VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
.ends


* expanding   symbol:  hv_rs-ff.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_rs-ff.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_rs-ff.sch
.subckt hv_rs-ff VDD nS Q nQ nR VSS
*.PININFO nS:I VDD:B VSS:B Q:O nR:I nQ:O
x4 VDD nS Q nQ VSS hv_nand
x5 VDD Q nQ nR VSS hv_nand
.ends


* expanding   symbol:  comp_pmos.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/comp_pmos.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/comp_pmos.sch
.subckt comp_pmos out - + VDD Ibias VSS
*.PININFO VDD:B VSS:B Ibias:I out:O +:I -:I
**** begin user architecture code


.param n_w = 1.2u
.param n_l = 1.5u
.param p_w = 2u
.param p_l = 0.4u
.param bcm = 1


**** end user architecture code
XM9 net1 Ibias VDD VDD sg13_hv_pmos w=bcm*p_w l=p_l ng=1 m=1 mm_ok=1
XM10 out Ibias VDD VDD sg13_hv_pmos w=bcm*p_w l=p_l ng=1 m=1 mm_ok=1
XM11 Ibias Ibias VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM12 net3 + net1 VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM13 net2 - net1 VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM14 net3 net2 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM15 net2 net2 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM16 out net3 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  comp_nmos.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/comp_nmos.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/comp_nmos.sch
.subckt comp_nmos out - + VDD Ibias VSS
*.PININFO VDD:B VSS:B -:I +:I Ibias:I out:O
XM8 net2 + net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM6 net1 net1 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM1 net2 net1 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM3 net1 - net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
**** begin user architecture code


.param n_w = 1.2u
.param n_l = 1.5u
.param p_w = 2u
.param p_l = 0.4u


**** end user architecture code
XM2 out net2 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM4 net3 Ibias VSS VSS sg13_hv_nmos w=2*n_w l=n_l ng=1 m=1 mm_ok=1
XM5 out Ibias VSS VSS sg13_hv_nmos w=2*n_w l=n_l ng=1 m=1 mm_ok=1
XM7 Ibias Ibias VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  voltage_mirror_pmos.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/voltage_mirror_pmos.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/voltage_mirror_pmos.sch
.subckt voltage_mirror_pmos Ibias nout VDD in VSS out
*.PININFO VDD:B VSS:B in:I out:O nout:O Ibias:I
**** begin user architecture code


.param n_w = 6u
.param n_l = 5u
.param p_w = 10u
.param p_l = 2u


**** end user architecture code
XR1 in Ibias VSS rhigh w=0.5e-6 l=34e-6 m=1 b=0 mm_ok=1
XM4 net1 Ibias VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM5 out net1 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XR2 VSS nout VSS rhigh w=0.5e-6 l=34e-6 m=1 b=0 mm_ok=1
XR3 out VDD VSS rhigh w=0.5e-6 l=34e-6 m=1 b=0 mm_ok=1
XM2 net1 net1 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM3 nout Ibias VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM6 Ibias Ibias VDD VDD sg13_hv_pmos w=1.9*p_w l=p_l ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  hv_inverter_6u5.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_6u5.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_6u5.sch
.subckt hv_inverter_6u5 VDD in out VSS
*.PININFO in:I VDD:B VSS:B out:O
XM2 out in VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 out in VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
**** begin user architecture code


.param ng  = 1
.param n_ng = ng
.param n_w = {2u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {6.5u*p_ng}
.param p_l = 0.4u


**** end user architecture code
.ends


* expanding   symbol:  bias_current_generator.sym # of pins=7
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/bias_current_generator.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/bias_current_generator.sch
.subckt bias_current_generator 40uA+ 5uA+ VDD VSS 5uA- 10uA- 40uA-
*.PININFO 40uA+:O VSS:B VDD:B 40uA-:O 10uA-:O 5uA+:O 5uA-:O
x4 VDD net1 VSS current_reference_40uA
XM11 net1 net1 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM12 40uA+ net1 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM13 net2 net1 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM14 net2 net2 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1 m=1 mm_ok=1
XM15 40uA- net2 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1 m=1 mm_ok=1
XM1 net3 net1 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM2 net3 net3 VSS VSS sg13_hv_nmos w=4*cm_n_w l=cm_n_l ng=4 m=1 mm_ok=1
XM3 10uA- net3 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1 m=1 mm_ok=1
XM5 net4 net3 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1 m=1 mm_ok=1
XM25 net4 net4 VDD VDD sg13_hv_pmos w=2*cm_p_w l=cm_p_l ng=2 m=1 mm_ok=1
XM26 net5 net4 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM27 5uA+ net4 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM28 net5 net5 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=2 m=1 mm_ok=1
XM29 5uA- net5 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1 m=1 mm_ok=1
**** begin user architecture code


.param cm_n_w = 6u
.param cm_n_l = 5u
.param cm_p_w = 10u
.param cm_p_l = 2u


**** end user architecture code
.ends


* expanding   symbol:  low_th_inverter.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/low_th_inverter.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/low_th_inverter.sch
.subckt low_th_inverter VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:O
XM1 vout vin VSS VSS sg13_hv_nmos w={n_ng*n_w} l={n_l} ng={n_ng} m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_hv_pmos w={p_ng*p_w} l={p_l} ng={n_ng} m=1 mm_ok=1
**** begin user architecture code


.param n_ng = 2
.param n_w = 1u
.param n_l = 0.45u
.param p_ng = 2
.param p_w = 1u
.param p_l = 0.4u


**** end user architecture code
.ends


* expanding   symbol:  high_th_inverter.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/high_th_inverter.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/high_th_inverter.sch
.subckt high_th_inverter VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:O
**** begin user architecture code


.param n_ng = 2
.param n_w = 1u
.param n_l = 0.45u
.param p_ng = 2
.param p_w = 10u
.param p_l = 0.4u


**** end user architecture code
XM1 vout vin VSS VSS sg13_hv_nmos w={n_ng*n_w} l={n_l} ng={p_ng} m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_hv_pmos w={p_ng*p_w} l={p_l} ng={p_ng} m=1 mm_ok=1
.ends


* expanding   symbol:  hv_inverter_0u3.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_0u3.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_0u3.sch
.subckt hv_inverter_0u3 VDD in out VSS
*.PININFO in:I VDD:B VSS:B out:O
XM2 out in VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 out in VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
**** begin user architecture code


.param w   = 0.3u
.param ng  = 1
.param n_ng = ng
.param n_w = {w*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {1*w*p_ng}
.param p_l = 0.4u


**** end user architecture code
.ends


* expanding   symbol:  hv_nand.sym # of pins=5
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nand.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nand.sch
.subckt hv_nand VDD in1 out in2 VSS
*.PININFO in1:I VDD:B VSS:B out:O in2:I
**** begin user architecture code


.param w   = 10u
.param ng  = 4
.param n_ng = ng
.param n_w = {3u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {10u*p_ng}
.param p_l = 0.4u


**** end user architecture code
XM2 out in1 net1 VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 out in2 VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
XM1 net1 in2 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM4 out in1 VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
.ends


* expanding   symbol:  current_reference_40uA.sym # of pins=3
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/current_reference_40uA.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/current_reference_40uA.sch
.subckt current_reference_40uA VDD iout VSS
*.PININFO VSS:B VDD:B iout:B
XM8 net2 net2 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM6 net2 net1 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM1 net1 net1 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM3 net1 net2 net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XR2 net4 VSS VSS rppd w=2e-6 l=21.9e-6 m=1 b=0 mm_ok=1
XM2 net1 net2 net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM4 net1 net2 net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM5 net1 net2 net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM7 iout net2 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XR3 net3 net4 VSS rsil w=0.5e-6 l=365e-6 m=1 mm_ok=1
**** begin user architecture code


.param n_w = 6u
.param n_l = 5u
.param p_w = 10u
.param p_l = 2u


**** end user architecture code
.ends

